data/mechanism_extracts/AsianJOC/10.1002_ajoc.202300485.json
{"doi": "10.1002_ajoc.202300485", "journal": "AsianJOC", "is_review": false, "rxn_class_summary": "Electrochemical oxidative sulfenocyclization of unsaturated carboxylic acids with diaryl disulfides to give thio-substituted lactones", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of diphenyl disulfide (PhSSPh) to generate a thiyl radical (PhS•) and a sulfenyl cation (PhS+); cathode reduces protons to H2", "key_intermediates": [{"name": "thiyl radical PhS• (A)", "smiles": "[S]c1ccccc1", "role": "reactive"}, {"name": "sulfenyl cation PhS+ (B)", "smiles": "[S+]c1ccccc1", "role": "reactive"}, {"name": "thiiranium/sulfonium adduct of alkene with carboxylic acid (C)", "smiles": null, "role": "transient"}, {"name": "γ-lactone product 3aa", "smiles": "O=C1OC(C)(c2ccccc2)CC1CSc1ccccc1", "role": "reactive"}], "electron_flow": "PhSSPh is preferentially oxidized at the anode (CV: oxidation peak of 2a at 1.86 V, lower than 1a at 2.37 V) to give PhS• and PhS+; the electrophilic PhS+ adds to the alkene of the unsaturated carboxylic acid to form a sulfonium intermediate, which undergoes intramolecular nucleophilic attack by the carboxylate followed by deprotonation to give the lactone, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction inhibited; product yield reduced to 30%, indicating a radical intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction inhibited; product yield reduced to 27%, consistent with radical pathway"}, {"name": "Cyclic voltammetry of 1a, 2a, and mixture", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peak of 2a at 1.86 V vs Ag/AgCl, lower than 1a (2.37 V), showing disulfide is preferentially oxidized at anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "The mechanism is proposed as a radical/cationic crossover initiated by anodic oxidation of the disulfide rather than the alkene-COOH substrate, supported by CV. Method extends to δ-lactones (from δ,ε-unsaturated acids) and tellurated γ-lactones using PhTeTePh."}
